US04188390
4-Amino-2-chloro-6,7-dimethoxyquinazoline (8.05 g.) and 2-methylpiperazine (10 g.) were heated under reflux in butanol for 15 hours. The reaction was then evaporated in vacuo and the residual oil was taken up in chloroform (200 ml.), washed with water (4×50 ml.), dried (Na2SO4) and evaporated in vacuo. The residual oil (13 g.) was recrystallized from isopropanol to give 4-amino-6,7-dimethoxy-2-(3-methylpiperazin-1-yl)quinazoline hemihydrate (3.0 g.), m.p. 185°-187° C.

reactant | 4-Amino-2-chloro-6,7-dimethoxyquinazoline | 8.05 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)Cl | C10H10ClN3O2
reactant | 2-methylpiperazine | 10 g | CC1NCCNC1 | C5H12N2
solvent | butanol | C(CCC)O | C4H10O
product | 4-amino-6,7-dimethoxy-2-(3-methylpiperazin-1-yl)quinazoline hemihydrate | 3.0 g | O.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CC(NCC1)C.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CC(NCC1)C | InChI=1S/2C15H21N5O2.H2O/c2*1-9-8-20(5-4-17-9)15-18-11-7-13(22-3)12(21-2)6-10(11)14(16)19-15;/h2*6-7,9,17H,4-5,8H2,1-3H3,(H2,16,18,19);1H2
